US04760064
1-(3-Benzyloxybenzoyl)-6-[4-(3,4-dimethoxybenzoyl)-1-piperazinyl]-3,4-dihydrocarbostyril (6 g) was dissolved in a mixture of ethanol (100 ml) and DMF (50 ml), and 10% palladium on carbon (1 g) was added thereto. The mixture was hydrogenated at 50° C. After completion of reaction, the catalyst was filtered off and the filtrate was evaporated under reduced pressure. The resultant residue was purified by silica-gel column chromatography (eluent:ethyl acetate:methanol=100:2) to give 1-(3-hydroxybenzoyl)-6-[4-(3,4-dimethoxybenzoyl)-1-piperazinyl]-3,4-dihydrocarbostyril (4.0 g).

reactant | 1-(3-Benzyloxybenzoyl)-6-[4-(3,4-dimethoxybenzoyl)-1-piperazinyl]-3,4-dihydrocarbostyril | 6 g | C(C1=CC=CC=C1)OC=1C=C(C(=O)N2C(=O)CCC3=CC(=CC=C23)N2CCN(CC2)C(C2=CC(=C(C=C2)OC)OC)=O)C=CC1 | C36H35N3O6
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
catalyst | palladium on carbon | 1 g | [Pd] | Pd
product | 1-(3-hydroxybenzoyl)-6-[4-(3,4-dimethoxybenzoyl)-1-piperazinyl]-3,4-dihydrocarbostyril | 4.0 g | OC=1C=C(C(=O)N2C(=O)CCC3=CC(=CC=C23)N2CCN(CC2)C(C2=CC(=C(C=C2)OC)OC)=O)C=CC1 | C29H29N3O6
